### PR TITLE
[Merged by Bors] - feat(ModelTheory): Lefschetz principle for AlgClosed Fields

### PR DESCRIPTION
**Pull request by ChrisHughes24**
The main question here was how to integrate the model theoretic classes with the normal type classes. The solution was the
`CompatibleRing` class, and to apply a theorem about the model theory of Alg Closed Fields to a literal Alg Closed field,
all you have to do is `letI := compatibleRingOfRing K`. Everything else can then be done by type class search. Going the other way, from a model theoretic field to a normal field is a bit more difficult, but I think people will do this more rarely, particularly with a complete theory like `ACF p`.

---
- [x] depends on: #6566 
- [x] depends on: #7185 
- [x] depends on: #7186 
- [x] depends on: #7187 
- [x] depends on: #7188 
- [x] depends on: #16031 
- [x] depends on: #16030
- [x] depends on: #16019
- [x] depends on: #16035 
- [x] depends on: #16037 

This is part of my work on Ax-Grothendieck in #6468

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ChrisHughes24** [comment]
!bench

**Comment by jcommelin** [comment]
Could you please split this into 5 PRs, one for each file?

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 1]
```diff
@@ -0,0 +1,285 @@
...
+
+To apply a theorem about the model theory of algebraically closed fields to a specific
+algebraically closed field `K` which does not have a `Language.ring.Structure` instance,
+you must introduce the local instance `compatibleRingOfRing K`. Theorems whose statement requires
+both a `Language.ring.Structure` instance and a `Field` instance will all be stated with the
+assumption `Field K`, `CharP K p`, `IsAlgClosed K` and `CompatibleRing K` and there are instances
+defined saying that these assumption imply `Theory.field.Model K` and `(Theory.ACF p).Model K`
+
+## References
+The first order theory of algebraically closed fields, along with the Lefschetz Principle and
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:38]:
```suggestion

The first order theory of algebraically closed fields, along with the Lefschetz Principle and
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 2]
```diff
@@ -0,0 +1,285 @@
...
+/-- A generic monic polynomial of degree `n` as an element of the
+free commutative ring in `n+1` variables, with a variable for each
+of the `n` non-leading coefficients of the polynomial and one variable (`Fin.last n`)
+for `X`.  -/
+def genericMonicPoly (n : ℕ) : FreeCommRing (Fin (n + 1)) :=
+  of (Fin.last _) ^ n + ∑ i : Fin n, of i.castSucc * of (Fin.last _) ^ (i : ℕ)
+
+/-- Monic polynomials of degree `n` over `K` are equivalent to functions `Fin n → K`  -/
+noncomputable def monicPolyEquivFin [CommRing K] [Nontrivial K] (n : ℕ) :
+    { p : K[X] // p.Monic ∧ p.natDegree = n } ≃ (Fin n → K) :=
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:62]: This has nothing to do with model theory, right? Can you move that to an earlier file?

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 3]
```diff
@@ -0,0 +1,285 @@
...
+      cases lt_or_eq_of_le hni with
+      | inr =>
+        subst n
+        have := p.2.1
+        simp [Monic.def, leadingCoeff, p.2.2] at this
+        simp [this]
+      | inl h =>
+        rw [eq_comm, if_neg (ne_of_gt h)]
+        exact coeff_eq_zero_of_natDegree_lt (p.2.2.symm ▸ h)
+    right_inv := fun _ => by simp [Finsupp.ofSupportFinite] }
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:100]: This looks quite complicated for something so simple. @eric-wieser, do we not have ways to restrict a `Finsupp` to a superset of its support, so that this equivalence can be obtained as the composition of this and the equivalence `(ι → α) ≃ (ι →₀ α)` for finite `ι`?

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 4]
```diff
@@ -0,0 +1,285 @@
...
+    subst hp
+    let _ := compatibleRingOfRing (AlgebraicClosure ℚ)
+    have : CharP (AlgebraicClosure ℚ) 0 :=
+      charP_of_injective_algebraMap
+        (RingHom.injective (algebraMap ℚ (AlgebraicClosure ℚ))) 0
+    exact ⟨⟨AlgebraicClosure ℚ⟩⟩
+
+open Cardinal
+
+/-- The Theory `Theory.ACF p` is `κ` Categorical whenever `κ` is an uncountable cardinal.
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:193]:
```suggestion
/-- The Theory `Theory.ACF p` is `κ`-categorical whenever `κ` is an uncountable cardinal.
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 5]
```diff
@@ -0,0 +1,285 @@
...
+  have hs : ∀ (p : Nat.Primes) ψ, ψ ∈ T0 → p ∉ s → Theory.ACF p ⊨ᵇ ψ := by
+    intro p ψ hψ hpψ
+    simp only [Finset.mem_biUnion, Finset.mem_attach, true_and,
+      Subtype.exists, not_exists] at hpψ
+    exact (f ψ (hT0 hψ)).2 p (hpψ _ hψ)
+  refine Set.Finite.subset (Finset.finite_toSet s) (Set.compl_subset_comm.2 ?_)
+  intro p hp
+  exact Theory.models_of_models_theory (fun ψ hψ => hs p ψ hψ hp) h
+
+/-- The Lefschetz principle. A first order sentence is modeled by the theory
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:271]:
```suggestion
/-- The **Lefschetz principle**. A first order sentence is modeled by the theory
```

**Review by YaelDillies — COMMENTED** [review]
The rest looks good!

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:62]: It should be split into an Equiv between the LHS and [Polynomial.degreeLT](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Basic.html#Polynomial.degreeLT) (by subtracting X^n; eraseLead may be useful, or not), and a [Basis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Basis.html#Basis) of degreeLT indexed by `Fin n`.
Also, this holds for Semiring K.

Comment (alreadydone) [reply Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:62]: Actually there is already [Polynomial.degreeLTEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Basic.html#Polynomial.degreeLTEquiv) which is basically defeq to the Basis.

**Comment by ChrisHughes24** [comment]
I'm off-sick right now, so I won't be working on this in the near future, but other people are welcome to edit things if they need it merged quickly.

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 6]
```diff
@@ -0,0 +1,241 @@
...
+* `FirstOrder.Field.ACF0_realize_iff_infinite_ACF_prime_realize` : the Lefschetz principle.
+
+## Implementation details
+
+To apply a theorem about the model theory of algebraically closed fields to a specific
+algebraically closed field `K` which does not have a `Language.ring.Structure` instance,
+you must introduce the local instance `compatibleRingOfRing K`. Theorems whose statement requires
+both a `Language.ring.Structure` instance and a `Field` instance will all be stated with the
+assumption `Field K`, `CharP K p`, `IsAlgClosed K` and `CompatibleRing K` and there are instances
+defined saying that these assumption imply `Theory.field.Model K` and `(Theory.ACF p).Model K`
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:35]:
```suggestion
defined saying that these assumptions imply `Theory.field.Model K` and `(Theory.ACF p).Model K`
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 7]
```diff
@@ -0,0 +1,241 @@
...
+theorem realize_genericMonicPolyHasRoot [Field K] [CompatibleRing K] (n : ℕ) :
+    K ⊨ genericMonicPolyHasRoot n ↔
+      ∀ p : { p : K[X] // p.Monic ∧ p.natDegree = n }, ∃ x, p.1.eval x = 0 := by
+  let _ := Classical.decEq K
+  rw [Equiv.forall_congr_left ((monicEquivDegreeLT n).trans (degreeLTEquiv K n).toEquiv)]
+  simp [Sentence.Realize, genericMonicPolyHasRoot, lift_genericMonicPoly]
+
+/-- The theory of algebraically closed fields of characteristic `p` as a theory over
+the language of rings -/
+def _root_.FirstOrder.Language.Theory.ACF (p : ℕ) : Theory Language.ring :=
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:83]: Just a suggestion, but this works
```suggestion
def _root_.FirstOrder.Language.Theory.ACF (p : ℕ) : Theory .ring :=
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 8]
```diff
@@ -0,0 +1,241 @@
...
+    have : CharP (AlgebraicClosure ℚ) 0 :=
+      charP_of_injective_algebraMap
+        (RingHom.injective (algebraMap ℚ (AlgebraicClosure ℚ))) 0
+    exact ⟨⟨AlgebraicClosure ℚ⟩⟩
+
+open Cardinal
+
+/-- The Theory `Theory.ACF p` is `κ`-categorical whenever `κ` is an uncountable cardinal.
+At the moment this is not as universe polymorphic as it could be,
+it currently requires `κ : Cardinal.{0}`, but it is true for any universe.    -/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:151]:
```suggestion
it currently requires `κ : Cardinal.{0}`, but it is true for any universe. -/
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 9]
```diff
@@ -0,0 +1,241 @@
...
+
+This file defines the theory of algebraically closed fields of characteristic `p`, as well
+as proving completeness of the theory and the Lefschetz Principle.
+
+## Main definitions
+
+* `FirstOrder.Language.Theory.ACF p` : the theory of algebraically closed fields of characteristic
+`p` as a theory over the language of rings.
+* `FirstOrder.Field.ACF_isComplete` : the theory of algebraically closed fields of characteristic
+`p` is complete whenever `p` is prime or zero.
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:25]:
```suggestion
  `p` as a theory over the language of rings.
* `FirstOrder.Field.ACF_isComplete` : the theory of algebraically closed fields of characteristic
  `p` is complete whenever `p` is prime or zero.
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 10]
```diff
@@ -0,0 +1,241 @@
...
+Copyright (c) 2023 Chris Hughes. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Chris Hughes
+-/
+
+import Mathlib.ModelTheory.Algebra.Field.CharP
+import Mathlib.FieldTheory.IsAlgClosed.AlgebraicClosure
+import Mathlib.FieldTheory.IsAlgClosed.Classification
+import Mathlib.ModelTheory.Satisfiability
+import Mathlib.Data.Nat.PrimeFin
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:11]:
```suggestion
import Mathlib.Data.Nat.PrimeFin
import Mathlib.FieldTheory.IsAlgClosed.AlgebraicClosure
import Mathlib.FieldTheory.IsAlgClosed.Classification
import Mathlib.ModelTheory.Algebra.Field.CharP
import Mathlib.ModelTheory.Satisfiability
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 11]
```diff
@@ -0,0 +1,241 @@
...
+      Subtype.exists, not_exists] at hpψ
+    exact (f ψ (hT0 hψ)).2 p (hpψ _ hψ)
+  refine Set.Finite.subset (Finset.finite_toSet s) (Set.compl_subset_comm.2 ?_)
+  intro p hp
+  exact Theory.models_of_models_theory (fun ψ hψ => hs p ψ hψ hp) h
+
+/-- The **Lefschetz principle**. A first order sentence is modeled by the theory
+of algebraically closed fields of characteristic zero if and only if it is modeled by
+the theory of algebraically closed fields of characteristic `p` for infinitely many `p`. -/
+theorem ACF0_realize_iff_infinite_ACF_prime_realize {φ : Language.ring.Sentence} :
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:230]:
```suggestion
theorem ACF_zero_realize_iff_infinite_ACF_prime_realize {φ : Language.ring.Sentence} :
```

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 12]
```diff
@@ -0,0 +1,241 @@
...
+    exact le_trans (le_of_lt (lt_aleph0_of_finite _)) (Order.le_succ _)
+  · exact ACF_isSatisfiable hp
+  · rintro ⟨M⟩
+    let _ := fieldOfModelACF p M
+    have := modelField_of_modelACF p M
+    let _ := compatibleRingOfModelField M
+    have := isAlgClosed_of_model_ACF p M
+    infer_instance
+
+theorem finite_ACF_prime_not_realize_of_ACF0_realize
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:187]:
```suggestion
theorem finite_ACF_prime_not_realize_of_ACF_zero_realize
```

**Review by Parcly-Taxel — APPROVED** [review]

File: Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean [hunk 13]
```diff
@@ -0,0 +1,241 @@
...
+    (((monicEquivDegreeLT n).trans (degreeLTEquiv K n).toEquiv).symm (v ∘ Fin.castSucc)).1.eval
+      (v (Fin.last _)) := by
+  simp only [genericMonicPoly, map_add, map_pow, lift_of, map_sum, map_mul, monicEquivDegreeLT,
+    degreeLTEquiv, Equiv.symm_trans_apply, LinearEquiv.coe_toEquiv_symm, EquivLike.coe_coe,
+    LinearEquiv.coe_symm_mk, Function.comp_apply, Equiv.coe_fn_symm_mk, eval_add, eval_pow, eval_X,
+    eval_finset_sum, eval_monomial]
+
+/-- A sentence saying every monic polynomial of degree `n` has a root. -/
+noncomputable def genericMonicPolyHasRoot (n : ℕ) : Language.ring.Sentence :=
+  (∃' ((termOfFreeCommRing (genericMonicPoly n)).relabel Sum.inr =' 0)).alls
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Algebra/Field/IsAlgClosed.lean:72]: I would have hoped precedence was correct for the following to work
```suggestion
  (∃' (termOfFreeCommRing (genericMonicPoly n)).relabel Sum.inr =' 0).alls
```
I guess this can be fixed in a later PR

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
